US06180622B2
Thionyl chloride (0.39 ml) is added to a solution of 774 mg of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethyl-silyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidine (stereoisomer A) in 0.014 ml of dry DMF and 5.3 ml of dry dichloromethane under ice cooling, and the mixture is stirred in this state for 25 min. The solvent and the excess reagent are removed by evaporation under reduced pressure, and the residue is dried under reduced pressure by means of a vacuum pump to give a bright yellow amorphous material which is then dissolved in 17.7 ml of 90% acetic acid. Zinc (1.156 g) is added to the solution under ice cooling, and the mixture is stirred in this state for 20 min. Further, the ice bath is removed, and stirring is continued for additional 10 min. Distilled water and ethyl acetate are added, and the mixture adjusted to pH 6 under stirring by addition of sodium hydrogencarbonate. The organic layer is separated, and the residual aqueous layer is adjusted to pH 8 by addition of sodium hydrogencarbonate, followed by extraction with ethyl acetate. The combined organic layers are washed twice with an 5% aqueous sodium hydrogencarbonate solution, dried over magnesium sulfate and potassium carbonate and filtered. The solvent is removed by evaporation under reduced pressure. The residue, together with acetonitrile, is once subjected to azeotropic evaporation, the residue is redissolved in 17.7 ml of acetonitrile, 0.70 ml of concentrated hydrochloric acid is added thereto under ice cooling, and the mixture is stirred in this state for 15 min. The mixture is diluted with 200 ml of ethyl acetate, the diluted solution is washed with 50 ml of a 5% aqueous sodium hydrogencarbonate solution, the organic layer is dried over magnesium sulfate, filtered, and the solvent is removed by evaporation under reduced pressure to give a yellowish orange amorphous material. The amorphous material is successively purified by column chromatography on silica gel (first, ethyl acetate:methanol=9:1; second, chloroform:methanol 9:1) and on Sephadex LH-20 (chloroform:methanol=1:1) to give 138 mg of (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidine as a colorless amorphous material.

reactant | Thionyl chloride | 0.39 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethyl-silyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidine | 774 mg | C(C=C)OC(=O)N1C([C@@H](C([C@H]1C(C1=NC=C2SC=CN21)O)(C)C)C(C)(C)C)O[SiH3] | C20H31N3O4SSi
reactant | dichloromethane | 5.3 ml | ClCCl | CH2Cl2
solvent | DMF | 0.014 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 17.7 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 1.156 g | [Zn] | Zn
product | (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidine | 138 mg | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC1=NC=C2SC=CN21)O | C14H17N3O3S
